US08541380B2
Step 2: 2-(6-(2-Chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)pyridazin-3-yl)-5-methyloxazole
To a solution of 6-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)-N-(2-oxopropyl)pyridazine-3-carboxamide (1.2 mmol) form Step 1 in tetrahydrofuran (30 mL) was added Burgess reagent (343 mg, 1.4 mmol). The reaction mixture was refluxed overnight. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate. The organic layer was dried over magnesium sulfate, filtered through a plug of silica gel and concentrated in vacuo. The resulting crude residue was used without further purification.

reactant | 6-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)-N-(2-oxopropyl)pyridazine-3-carboxamide | 1.2 mmol | ClC1=C(CC2=CC=C(N=N2)C(=O)NCC(C)=O)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C49H48ClN3O7
reactant | Burgess reagent | 1.4 mmol, 343 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-(2-Chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)pyridazin-3-yl)-5-methyloxazole | ClC1=C(CC2=CC=C(N=N2)C=2OC(=CN2)C)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C49H46ClN3O6
